US04481142
Preparation of 9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepin-2-ol
A solution of 1.2 g (0.00354 mol) of 9-chloro-7-(2-fluorophenyl)-2-amino-5H-pyrimido[5,4-d][2]benzazepine in 20 ml of concentration sulfuric acid and 20 ml of water was refluxed for 12 hr, and then cooled. After the addition of ice, the reaction mixture was basified with ammonium hydroxide and extracted with 100 ml of dichloromethane. The solids were collected by filtration and recrystallized from dichloromethane/methanol to give the end product as white prisms, mp 297°-299° dec. The dichloromethane extract was dried, evaporated and the residue crystallized from dichloromethane/methanol to give additional product.

reactant | 9-chloro-7-(2-fluorophenyl)-2-amino-5H-pyrimido[5,4-d][2]benzazepine | 0.00354 mol, 1.2 g | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)F)C=NC(=N3)N)C=C1 | C18H12ClFN4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 20 ml | O | H2O
product | 9-chloro-7-(2-fluorophenyl)-5H-pyrimido[5,4-d][2]benzazepin-2-ol | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)F)C=NC(=N3)O)C=C1 | C18H11ClFN3O
